US07589232B2
Step a) Formation of 6-[(4-butylphenyl)ethynyl]nicotinaldehyde
To a solution of 6-bromo-nicotinaldehyde (9.3 g, 50 mmol), Et3N (15.2 g, 150 mmol), CuI (190 mg, 1.0 mmol) and PPh3 (1.05 g, 4.0 mmol) in anhydrous degassed THF (250 mL) was added Pd(OAc)2 (225 mg, 1 mmol). The mixture was heated at 70° C. for 30 min. Then, a solution of 1-butyl-4-eth-1-ynylbenzene (11.9 g, 75 mmol) in anhydrous degassed THF (1M) was added dropwise. The reaction mixture was stirred at 70° C. for 15 h. Then, an aqueous solution of HCl 1N was added and the resulting mixture was extracted with Et2O (3×). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure to give an orange oil. Purification by chromatography on silica gel (c-Hex/EtOAc 85/15) gave 4.5 g of the title compound as an orange oil (34%). M+ (ESI): 264.3. HPLC, Rt: 4.87 min (purity: 96.7%).

reactant | 6-bromo-nicotinaldehyde | 50 mmol, 9.3 g | BrC1=NC=C(C=O)C=C1 | C6H4BrNO
reactant | Et3N | 150 mmol, 15.2 g | CCN(CC)CC | C6H15N
reactant | PPh3 | 4.0 mmol, 1.05 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 1-butyl-4-eth-1-ynylbenzene | 75 mmol, 11.9 g | C(CCC)C1=CC=C(C=C1)C#C | C12H14
reactant | HCl | 1N | Cl | ClH
catalyst | CuI | 1.0 mmol, 190 mg | [Cu]I
catalyst | Pd(OAc)2 | 1 mmol, 225 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | THF | 1M | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 6-[(4-butylphenyl)ethynyl]nicotinaldehyde | 4.5 g, 34% | C(CCC)C1=CC=C(C=C1)C#CC1=NC=C(C=O)C=C1 | C18H17NO
